US06949542B2
4-[3-(6-Methyl-pyrimidin-4-yl)-phenyl]-8-pyrrol-1-yl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-4-pyrrol-1-yl-phenyl)-carbamic acid tert-butyl ester (Example J11) (137 mg, 0.5 mmol) and 3-[3-(6-methyl-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K41) (172 mg, 0.55 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (40 mg).

reactant | (2-amino-4-pyrrol-1-yl-phenyl)-carbamic acid tert-butyl ester | 0.5 mmol, 137 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)N1C=CC=C1)N)=O | C15H19N3O2
reactant | 3-[3-(6-methyl-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.55 mmol, 172 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC=NC(=C1)C)=O | C18H20N2O3
product | 4-[3-(6-Methyl-pyrimidin-4-yl)-phenyl]-8-pyrrol-1-yl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC1=CC(=NC=N1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)N2C=CC=C2 | C24H19N5O
